US08497274B2
(ii) Production of N-[6-(3-aminophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide
N-(3-{[2-(Acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}phenyl)-2,2,2-trifluoroacetamide (6.8 g, 16.2 mmol) was dissolved in a mixed solvent of tetrahydrofuran (75 mL)/methanol (25 mL)/water (25 mL), lithium hydroxide monohydrate (1.99 g, 48.5 mmol) was added, and the mixture was stirred at room temperature for 20 hr. The reaction mixture was diluted with ethyl acetate (600 mL) and tetrahydrofuran (200 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (300 mL) and saturated brine (300 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was suspended in N,N-dimethylformamide/ethyl acetate (1:1), and the insoluble material was collected by filtration to give the title compound (2.00 g, 38%) as a white powder.

reactant | N-(3-{[2-(Acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}phenyl)-2,2,2-trifluoroacetamide | 16.2 mmol, 6.8 g | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=C(C=CC2)NC(C(F)(F)F)=O | C18H11F3N4O3S
reactant | lithium hydroxide monohydrate | 48.5 mmol, 1.99 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N-[6-(3-aminophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide | 2.00 g, 38% | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(C)=O)C=C2)C#N)C=CC1 | C16H12N4O2S
